US09334278B2
To a stirred solution of N-tert-butyl-2-(1-methyl-6,7-dihydro-1H-pyrazolo[4,3-b]pyridin-4(5H)-yl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (77 mg, 159 μmol) in CH2Cl2 (4 mL) was added TFA (740 mg, 500 μL, 6.49 mmol). After 24 h the solvents were evaporated and the residue was re-dissolved in 5 mL of a mixture of (CH2Cl2/methanol/ammonium hydroxide; 60:10:1). After stirring at room temperature for 24 h, the mixture was concentrated in vacuo to a yellow solid, which was purified by chromatography (spherical silica 20-45 μm, 23 g, Versaflash Supelco, 0 to 5% 9:1 methanol:ammonium hydroxide in CH2Cl2, 30 min) to give a product that was dissolved in CH2Cl2 and precipitated by addition of cyclohexane. The yellow solid formed was separated by decantation of the mother liquor and then dried under high vacuum to give N-tert-butyl-2-(1-methyl-6,7-dihydro-1H-pyrazolo[4,3-b]pyridin-4(5H)-yl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (33 mg, 59%) as a yellow solid. 1H NMR (CHLOROFORM-d) δ: 8.95 (br. s., 1H), 8.24 (s, 1H), 8.02-8.14 (m, 2H), 7.85 (s, 1H), 3.88-3.99 (m, 2H), 3.83 (s, 3H), 2.81 (t, J=6.6 Hz, 2H), 2.08-2.24 (m, 2H), 1.55 (s, 9H). MS (EI/CI) m/z: 354.1 [M+H]+.

reactant | N-tert-butyl-2-(1-methyl-6,7-dihydro-1H-pyrazolo[4,3-b]pyridin-4(5H)-yl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 159 μmol, 77 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)N2C1=C(CCC2)N(N=C1)C)COCC[Si](C)(C)C | C24H37N7O2Si
reactant | TFA | 6.49 mmol, 500 μL, 740 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-tert-butyl-2-(1-methyl-6,7-dihydro-1H-pyrazolo[4,3-b]pyridin-4(5H)-yl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 33 mg, 59% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)N2C1=C(CCC2)N(N=C1)C | C18H23N7O
